US07772244B2
3-Methyl-3,9-diaza-spiro[5.5]undecane dihydrochloride
3-Benzyl-9-methyl-3,9-diaza-spiro[5.5]undecane (Rice, L. M. et al. J Heterocyclic Chem. 1964, 1, 3, 125.) (1.2 g, 4.65 mmol) was dissolved in ethanol (20 mL). To this solution was added hydrochloric acid (4 N in dioxane, 3 mL) and palladium (10% on charcoal, 500 mg). The reaction was shaken on a Parr shaker overnight under 60 psi of hydrogen. The reaction mixture was filtered through a pad of celite, concentrated, and the residue treated with a mixture of ethyl acetate and hexanes, to yield 670 mg (60%) as a white powder. 1H-NMR (CD3OD) δ 1.68-1.72 (m, 4H), 2.88 (s, 3H), 3.16-3.22 (m, 6H), 3.38 (m, 2H). Mass spec.: 169.12 (MH)+.

reactant | 3-Benzyl-9-methyl-3,9-diaza-spiro[5.5]undecane | 4.65 mmol, 1.2 g | C(C1=CC=CC=C1)N1CCC2(CC1)CCN(CC2)C | C17H26N2
reactant | hydrochloric acid | 4 N, 3 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium | 500 mg | [Pd] | Pd
product | 3-Methyl-3,9-diaza-spiro[5.5]undecane dihydrochloride | Cl.Cl.CN1CCC2(CC1)CCNCC2 | InChI=1S/C10H20N2.2ClH/c1-12-8-4-10(5-9-12)2-6-11-7-3-10;;/h11H,2-9H2,1H3;2*1H
